US04337267
(d) 3-(4-Fluorophenyl)propan-1-ol-
A solution of 43.6 g of 3-(4-fluorophenyl)propionic acid in 300 ml of tetrahydrofuran is added dropwise to a suspension of 19.7 g of lithium aluminum hydride in 300 ml of tetrahydrofuran at a reaction temperature of about 45° C., while stirring. When the addition has ended, the above temperature is maintained for a further 2.5 hours and 80 ml of water and 20 ml of 4 N sodium hydroxide solution are then successively added dropwise. The precipitate is filtered off and rinsed several times with diethyl ether and the combined solutions are dried over sodium sulfate and concentrated. 39.7 g of 3-(4-fluorophenyl)propan-1-ol remain as an almost colorless oil.

reactant | 3-(4-fluorophenyl)propionic acid | 43.6 g | FC1=CC=C(C=C1)CCC(=O)O | C9H9FO2
reactant | lithium aluminum hydride | 19.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 80 ml | O | H2O
reactant | sodium hydroxide | 4 N, 20 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-(4-Fluorophenyl)propan-1-ol- | FC1=CC=C(C=C1)CCCO | C9H11FO
